Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Celexa / Lipitor / Statins-Hmg-Coa Reductase Inhibitors
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with cirrhosis, ___ esophagus presents for epigastric 
pain x3 days similar to prior episodes. He reports pain that 
comes and goes like prior episodes and endorses diarrhea this 
morning. He also vomited this morning. He denies any fevers, 
chills, chest pain, cough, shortness of breath, blood in stool 
diarrhea or constipation.

Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies constipation. No recent 
change in bowel or bladder habits. No dysuria. Denies 
arthralgias or myalgias. Ten point review of systems is 
otherwise negative.  

 

 
Past Medical History:
Diabetes hx ___ c/b peripheral neuropathy 
HTN
HCV, HBV
Cirrhosis, alcoholic
Pancreatitis, alcoholic 
chronic back, neck, shoulder
hypothyroidism  
Abdominal surgery ___ knife stabbing injury 
 
Social History:
___
Family History:
 Father with colon cancer
 
Physical Exam:
VS: T 98.8, 139/98, 64, 18, 96%RA
Gen: Appears comfortable, non-toxic
CV: RRR
Pulm: CTAB no w/r/r
Abd: soft, NT, ND, BS+, no ___ sign
Extrem: warm, no edema
GU: no foley
Skin: no rash
Neuro: A+Ox3, speech fluent
 
Pertinent Results:
___ 08:34AM BLOOD Lipase-293*
___ 08:34AM BLOOD Glucose-367* UreaN-21* Creat-1.4* Na-135 
K-5.0 Cl-100 HCO3-23 AnGap-17
___ 08:34AM BLOOD Hypochr-2+ Anisocy-2+ Poiklo-1+ 
Macrocy-OCCASIONAL Microcy-2+ Polychr-1+ Ovalocy-OCCASIONAL 
Ellipto-1+
___ 08:34AM BLOOD WBC-6.7 RBC-3.98* Hgb-9.0* Hct-29.5* 
MCV-74* MCH-22.5* MCHC-30.4* RDW-20.7* Plt ___ male with multiple medical problems including cirrhosis, 
alcohol abuse, hepatitis C, depression, and hypothyroidism who 
was admitted with acute on chronic abdominal pain. 

# Abdominal pain: This was similar to prior episodes that in the 
past have been attributed to gastritis/GERD. Labs were notable 
for an elevated lipase of 293 so pancreatitis was considered. In 
early ___, he had a CT abdomen/pelvis with IV contrast that 
demonstrated no acute intra-abdominal abnormalities. In early 
___, he also had an EGD that demonstrated mucosa suggestive of 
___ esophagus (biopsy) and a small sessile polyp at the 
distal esophagus. He reported having an unremarkable colonoscopy 
- report not available for my review. He was treated with bowel 
rest, acid suppressing therapy, and pain control. We discussed 
that ___ may be useful to evaluate for structural abnormality 
given elevated lipase and concern for pancareatitis. Certainly 
he should follow up with hepatology/GI for further evaluation as 
well for management of his cirrhosis. His symptoms were 
improving at the time of discharge. 

#EtOH cirrhosis/?Hep C: No signs of decompensation. Discussed 
importance of follow up with hepatology. 

#Left iliac lesion: During recent hospitalization noted to have 
mixed lucent and sclerotic lesion in the left iliac bone 
measuring up to 2.9-cm. Will need additional imaging as an 
outpatient unless long term stability can be confirmed. 

# Anemia: Recent EGD (___) revealed ___ Esophagus. PCP 
considering arranging IV iron infusions.

CHRONIC: 
#CKD: Currently at baseline
#HTN: Continue enalapril
#DM2: Continue home meds and on sliding scale insulin while 
hospitalized.
#Bipolar disorder: Continue sertraline, seroquel, and ativan. He 
reported that OSH physician recently stopped valium and 
increased dose of ativan. 
#Hypothyroidism: Continue levothyroxine
.
TRANSITIONAL: 
[ ]needs hepatology/GI referral 
[ ]further evaluation of left iliac lesion noted during prior 
hospitalization 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB 
2. Aspirin 81 mg PO DAILY 
3. Enalapril Maleate 5 mg PO DAILY 
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
5. FoLIC Acid 1 mg PO DAILY 
6. Gabapentin 800 mg PO TID 
7. Levothyroxine Sodium 125 mcg PO DAILY 
8. Lorazepam 0.5 mg PO BID 
9. Multivitamins 1 TAB PO DAILY 
10. QUEtiapine Fumarate 100 mg PO QHS 
11. Sertraline 150 mg PO QHS 
12. Thiamine 100 mg PO DAILY 
13. GlipiZIDE XL 10 mg PO DAILY 
14. Omeprazole 20 mg PO BID 
15. QUEtiapine Fumarate 50 mg PO DAILY 
16. MetFORMIN XR (Glucophage XR) 1000 mg PO BID 

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB 
2. Aspirin 81 mg PO DAILY 
3. Enalapril Maleate 5 mg PO DAILY 
4. FoLIC Acid 1 mg PO DAILY 
5. Gabapentin 800 mg PO TID 
6. GlipiZIDE XL 10 mg PO DAILY 
7. Levothyroxine Sodium 125 mcg PO DAILY 
8. MetFORMIN XR (Glucophage XR) 1000 mg PO BID 
9. Multivitamins 1 TAB PO DAILY 
10. Omeprazole 20 mg PO BID 
11. QUEtiapine Fumarate 100 mg PO QHS 
12. QUEtiapine Fumarate 50 mg PO DAILY 
13. Sertraline 150 mg PO QHS 
14. Thiamine 100 mg PO DAILY 
15. Maalox/Diphenhydramine/Lidocaine ___ mL PO QID:PRN pain 
RX *alum-mag hydroxide-simeth [Maalox Advanced] 200 mg-200 mg-20 
mg/5 mL 15 ml by mouth three times a day Refills:*0
16. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth Q6 Disp #*15 Tablet 
Refills:*0
17. Fluticasone Propionate 110mcg 2 PUFF IH BID 
18. Diazepam 10 mg PO TID 
RX *diazepam 5 mg 2 by mouth three times a day Disp #*30 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure to participate in your care. You were admitted 
with abdominal pain. You had a recent upper endoscopy. You had a 
recent CT scan.  An MRI may be helpful as the next step to 
evaluate your symptoms.  You symptoms improved and you needed to 
leave the hospital to return to your shelter. You need to follow 
up with a liver specialist (hepatologist) and GI doctor for 
ongoing care of this problem - please call ___ to 
schedule this. 

Fow now follow this antireflux regimen: Avoid chocolate, fatty 
foods, peppermint, caffeine, onions, garlic, beer, alcohol and 
soft drinks with gas. Elevate the head of the bed at least 3 
inches. Go to bed with an empty stomach.

 
Followup Instructions:
___